US04886835
The procedure is as in Example 2 for the preparation of ethyl phenylthioacetate, starting with ethyl bromoacetate (16.7 g), a 2M ethanolic solution of sodium ethylate (50 cc) and allylmercaptan (7.7 cc). After purification by chromatography on a silica column with cyclohexane as eluent, ethyl (allylthio)acetate (3.1 g) is obtained, and is used in the crude state in the subsequent phases.

reactant | ethyl phenylthioacetate | C1(=CC=CC=C1)CC(=S)OCC | C10H12OS
reactant | ethyl bromoacetate | 16.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | allylmercaptan | 7.7 cc | C(C=C)S | C3H6S
solvent | sodium ethylate | 50 cc | CC[O-].[Na+]
product | ethyl (allylthio)acetate | 3.1 g | C(C=C)SCC(=O)OCC | C7H12O2S
